US04552891
C. Preparation of 5,6-diethoxybenzothiophene-2-carboxylic acid
Two grams of β-(3,4-diethoxyphenyl)-α-mercaptoacrylic acid were dissolved in 68.5 ml. of dioxane. To the solution were added 2.74 g. of iodine. The solution was heated at 60°-70° C. for 22 hours. The reaction was then poured into 550 ml. of water, decolorized with 11.0 g. of sodium bisulfite, and stirred vigorously for several minutes. The crude product was collected by filtration and dissolved in approximately 15 ml. of a warm 10% sodium hydroxide solution. The alkaline solution was treated with decolorizing carbon and filtered. The solution was allowed to stand at refrigerator temperature overnight. The resulting pink crystals were collected and dissolved in water. Dilute hydrochloric acid was added and the resulting precipitate was collected to give 0.59 g. of the desired title product. Two recrystallizations from 95% ethanol gave white needles, m.p. 243°-245° C.

reactant | β-(3,4-diethoxyphenyl)-α-mercaptoacrylic acid | Two grams | C(C)OC=1C=C(C=CC1OCC)C=C(C(=O)O)S | C13H16O4S
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | iodine | II | I2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 5,6-diethoxybenzothiophene-2-carboxylic acid | C(C)OC=1C(=CC2=C(C=C(S2)C(=O)O)C1)OCC | C13H14O4S
